US07855297B2
By the reaction and treatment in the same manner as in Example, 271 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.78 g) and 5-chloromethyl-2-(2-methoxyethoxy)pyridine (0.61 g) as starting materials, 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(1-{[6-(2-methoxyethoxy)pyridin-3-yl]methyl}pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.77 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.78 g | Cl.C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C
reactant | 5-chloromethyl-2-(2-methoxyethoxy)pyridine | 0.61 g | ClCC=1C=CC(=NC1)OCCOC | C9H12ClNO2
product | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(1-{[6-(2-methoxyethoxy)pyridin-3-yl]methyl}pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.77 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NN(C1)CC=1C=NC(=CC1)OCCOC)C=1C=NC(=CC1)C(C)C | C39H43N5O4
